US06717002B2
Synthesis of 6-oxoestrone-isopropyl Ether
Iodine (7.61 g, 30 mmol) and 19-nor-4-androstene-3,17-dione (2.72 g, 10 mmol) were dissolved in a mixture of acetonitrile (75 mL) and isopropanol (75 mL), to thereby form a reaction mixture. The reaction mixture was stirred for two hours while oxygen was introduced (50 mL/min) thereto under cooling in an ice-bath. The resultant mixture was maintained at room temperature, and after stirring of the mixture for a further 1.5 hours, introduction of oxygen was stopped and the mixture was refluxed for one hour. The reaction mixture was cooled to room temperature, and an aqueous solution of sodium thiosulfate was added to the mixture. The mixture was extracted with chloroform, and the organic phase was washed sequentially with an aqueous solution of sodium bicarbonate and saturated brine. The washed matter was dried over magnesium sulfate anhydrate, filtered, and evaporated under reduced pressure. The formed precipitates were recrystallized from acetone, to thereby yield 1.3 g of the title compound (yield 40%). The remaining mother liquor was purified through silica gel column chromatography (chloroform), to thereby further obtain 1.3 g of the title compound (overall yield: 80%).

reactant | Iodine | 30 mmol, 7.61 g | II | I2
reactant | 19-nor-4-androstene-3,17-dione | 10 mmol, 2.72 g | C[C@]12CC[C@H]3[C@H]([C@@H]1CCC2=O)CCC4=CC(=O)CC[C@H]34 | C18H24O2
reactant | oxygen | O=O | O2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | isopropanol | 75 mL | C(C)(C)O | C3H8O
solvent | acetonitrile | 75 mL | C(C)#N | C2H3N
product | 6-oxoestrone isopropyl Ether | yield 1.3 g, yield 40% | C[C@]12CC[C@H]3[C@H]([C@@H]1CCC2=O)CC(=O)C4=C3C=CC(=C4)O.C(C)(C)OC(C)C | InChI=1S/C18H20O3.C6H14O/c1-18-7-6-12-11-3-2-10(19)8-14(11)16(20)9-13(12)15(18)4-5-17(18)21;1-5(2)7-6(3)4/h2-3,8,12-13,15,19H,4-7,9H2,1H3;5-6H,1-4H3/t12-,13-,15+,18+;/m1./s1
